US08222274B2
A 719 mg portion of ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-4-(hydroxymethyl)-2-methyl-1H-pyrrole-3-carboxylate was suspended in 10 ml of ethanol, and 2.0 ml of 4 M hydrogen chloride/1,4-dioxane was added, followed by stirring overnight at room temperature. By adding 10 ml of a 1 M sodium hydroxide aqueous solution, ethanol was evaporated under a reduced pressure. After extraction with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (Chromatorex (registered trademark), ethyl acetate:hexane=1:30-1:20-1:15) to obtain 623 mg of ethyl 5-tert-butyl-4-(ethoxymethyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate as a colorless oil.

reactant | ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-4-(hydroxymethyl)-2-methyl-1H-pyrrole-3-carboxylate | C(C)(C)(C)C1=C(C(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC)CO | C21H28FNO3
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.0 ml | Cl.O1CCOCC1
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 5-tert-butyl-4-(ethoxymethyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | 623 mg | C(C)(C)(C)C1=C(C(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC)COCC | C23H32FNO3
